US05734051
1,3-Di-cyclohexyl-8-chloro xanthine was prepared from 1,3-di-cyclohexyl-8-nitro xanthine (2 g, 0.006 mol) and phosphorous oxychloride (3.9 g) in dimethylformamide (6 ml), using an analogous procedure to that described in Example 17. The product was obtained as a crystalline product after recrystallisation from ethyl acetate, m.pt., 135° C.

reactant | 1,3-di-cyclohexyl-8-nitro xanthine | 0.006 mol, 2 g | C1(CCCCC1)N1C(=O)N(C=2N=C(NC2C1=O)[N+](=O)[O-])C1CCCCC1 | C17H23N5O4
reactant | phosphorous oxychloride | 3.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-cyclohexyl-8-chloro xanthine | C1(CCCCC1)N1C(=O)N(C=2N=C(NC2C1=O)Cl)C1CCCCC1 | C17H23ClN4O2
